US09353107B2
Step-iv: 5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(piperazin-1-yl) aniline
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(2-amino-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (90 mg, 0.15 mmol) was deprotected in HCl in ether/MeOH (0.2/5 ml). This afforded 5 mg (6.3% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 9.00 (s, 1H), 8.70 (s, 1H), 8.40 (s, 1H), 8.06 (s, 1H), 7.98 (s, 1H), 7.90-7.80 (m, 2H), 7.63-7.61 (d, 1H), 7.45-7.35 (q, 1H), 7.20-7.00 (m, 3H), 5.45 (s, 2H), 3.12 (s, 2H), 2.76 (s, 4H). MS: m/z=467.9 (M+1), HPLC: 95.53% in method A.

reactant | tert-butyl 4-(2-amino-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.15 mmol, 90 mg | NC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C32H34FN7O2
solvent | HCl | Cl | ClH
solvent | ether MeOH | 2/5 ml | CCOCC.CO
product | 5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(piperazin-1-yl) aniline | 5 mg, 6.3% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(N)C3)N3CCNCC3)C=CC1 | C27H26FN7
